US04470973
(d) 1-[N-[(S)-3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride
1-[N-[(S)-3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, 1,1-dimethylethyl ester (740 mg., 1.46 mmole) is dissolved in a solution of hydrogen chloride in acetic acid (1.5N, 10 ml.) and kept at room temperature for 30 minutes. It is then concentrated, taken into water, filtered and lyophilized to obtain 600 mg. of 1-[N-(S)-3-(benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride; m.p. 83°-163°; [α]D25 =-109° (c=1.04, methanol). Rf 0.6 (silica gel; butanol/acetic acid/water, 4:1:1).

reactant | 1-[N-[(S)-3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, 1,1-dimethylethyl ester | 1.46 mmole, 740 mg | C(C1=CC=CC=C1)(=O)N[C@H](C(CN[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)=O)CC1=CC=CC=C1 | C29H37N3O5
reactant | L-proline, monohydrochloride | Cl.N1[C@H](C(=O)O)CCC1
reactant | methanol | CO | CH4O
reactant | butanol acetic acid water | C(CCC)O.C(C)(=O)O.O
solvent | hydrogen chloride | Cl | ClH
solvent | acetic acid | 1.5N, 10 ml | C(C)(=O)O | C2H4O2
product | 1-[N-[(S)-3-(Benzoylamino)-2-oxo-4-phenylbutyl]-L-alanyl]-L-proline, monohydrochloride | Cl.C(C1=CC=CC=C1)(=O)N[C@H](C(CN[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)=O)CC1=CC=CC=C1 | InChI=1S/C25H29N3O5.ClH/c1-17(24(31)28-14-8-13-21(28)25(32)33)26-16-22(29)20(15-18-9-4-2-5-10-18)27-23(30)19-11-6-3-7-12-19;/h2-7,9-12,17,20-21,26H,8,13-16H2,1H3,(H,27,30)(H,32,33);1H/t17-,20-,21-;/m0./s1
